US07629342B2
To a sealed tube was added 2-benzyl-4-chloro-5-(4-chlorophenyl)pyridazin-3(2H)-one (3.31 gm, 110.0 mmol), 4-cyanophenyl boronic acid (2.94 gm, 20 mmol), Pd(dppf)Cl2 dichloromethane complex (0.817 gm, 1.0 mmol), potassium phosphate (6.36 gm, 30 mmol) and THF (10 ml). The reaction solution was degassed with argon for 5 min and then sealed in a reaction tube. The reaction was then heated to 90° C. and keeped at this temperature for 4 hrs. The reaction was then cooled to rt and diluted with EtOAc (50 ml). The reaction mixture was then poured into a separatory funnel and the layers were separated. The organic layer was washed with water (20 ml) and saturated aqueous NaCl (20 ml). The organic layer was then slurried with MgSO4 to remove excess water, filtered and concentrated to give the crude product. The crude product was purified using an automated column chromatography system (ISCO, 330 gm silica gel) eluting with a gradient of 0-70% EtOAc/Hex to give 3.65 gm (92% yield) 4-(2-benzyl-5-(4-chlorophenyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile. HPLC retention time (method B) 3.81 min; LCMS (M+H)=398.0.

reactant | 2-benzyl-4-chloro-5-(4-chlorophenyl)pyridazin-3(2H)-one | 110.0 mmol, 3.31 gm | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)C1=CC=C(C=C1)Cl | C17H12Cl2N2O
reactant | 4-cyanophenyl boronic acid | 20 mmol, 2.94 gm | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | potassium phosphate | 30 mmol, 6.36 gm | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(2-benzyl-5-(4-chlorophenyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile | 3.65 gm, 92% yield | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=C(C#N)C=C1)C1=CC=C(C=C1)Cl | C24H16ClN3O
